US04366160
A suspension of 21.6 g of N-(benzyloxy)ethylenediamine dihydrochloride in 250 ml of toluene is treated with 18.8 g of o-tolylimidocarbonyl chloride, 3.4 g of tetra-n-butylammonium hydrogen sulfate and, while stirring vigorously, dropwise with 80 ml of 28 percent sodium hydroxide. In so doing, the temperature rises to 52°. The mixture is stirred overnight and diluted with ether. The organic phase is separated, washed with water and extracted three times with 3 N sulfuric acid. The aqueous-acidic phase is made alkaline with concentrated sodium hydroxide and extracted with ether. The ethereal solution is dried and evaporated in vacuo. There is obtained 1-(benzyloxy)-2-[(o-tolyl)imino]imidazolidine as a viscous oil which is used directly in the next step.

reactant | N-(benzyloxy)ethylenediamine dihydrochloride | 21.6 g | Cl.Cl.C(C1=CC=CC=C1)ONCCN
reactant | o-tolylimidocarbonyl chloride | 18.8 g | C1(=C(C=CC=C1)C(=N)Cl)C | C8H8ClN
reactant | sodium hydroxide | 80 ml | [OH-].[Na+]
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium hydrogen sulfate | 3.4 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ether | CCOCC | C4H10O
product | 1-(benzyloxy)-2-[(o-tolyl)imino]imidazolidine | C(C1=CC=CC=C1)ON1C(NCC1)=NC1=C(C=CC=C1)C | C17H19N3O
